US07951874B2
d) Preparation of 2,7-di(2,3,5,6-tetramethylphenyl)-9,9-diheptylfluorene
0.04 mol of durylboronic acid is initially charged in a 1-liter 3-neck flask with 600 ml of toluene, admixed with 0.04 mol of propane-1,3-diol and heated on a water separator until no further water is separated out. Afterward, the water separator is removed and replaced by a reflux condenser, and 0.01 mol of 2,7-dibromo-9,9-diheptylfluorene and 11.6 g of potash dissolved in 42 ml of water are added to the reaction mixture. The flask is then repeatedly evacuated under reduced pressure and flooded with argon in order to add the catalyst, tetrakis(triphenylphosphine)palladium. Finally, the mixture is heated to 110° C. for 48 h and purged with argon during this time. For workup, the organic phase is washed repeatedly with water, extracted and concentrated to dryness. The residue is washed in methanol and filtered off with suction. The crude product is purified by chromatography on silica gel by means of cyclohexane.

reactant | durylboronic acid | 0.04 mol | C1(=C(C)C(C)=CC(C)=C1C)B(O)O | C10H15BO2
reactant | propane-1,3-diol | 0.04 mol | C(CCO)O | C3H8O2
reactant | 2,7-dibromo-9,9-diheptylfluorene | 0.01 mol | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCC)CCCCCCC | C27H36Br2
reactant | potash | 11.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 42 ml | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 2,7-di(2,3,5,6-tetramethylphenyl)-9,9-diheptylfluorene | CC1=C(C(=C(C=C1C)C)C)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=C(C(=CC(=C1C)C)C)C)(CCCCCCC)CCCCCCC | C47H62
